Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
S/P Motor Vehicle Accident 
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
___ yo F pmh hyperthyroidism and hypertension presents high speed 
MVC with altered mental status, intoxication. Initially in the 
ED, patient reports she does not remember before or after the 
accident, says she may have syncopized. 

In the ED,
-Initial Vitals:  100.5 F HR 118 BP 123/57 HR 16 95% RA 
- Exam notable for: none reported. 
- Labs showed:  INR ___ Fibrinogen 564. 
WBC 8.6 Hgb 12.4 Plt 200
Serum tox positive for EtOH 105. Negative otherwise 
AST 45 AST 62 AP 120 lipase 70 Tbili 0.3 Albumin 4.1
BUN 18 Cr 0.7
pH 7.38 pCO2 39
- Imaging showed: 
Hand XRay Full No fracture or dislocation 
Left knee XRay with hematoma
 
CT chest w/ contrast 
1. No acute trauma in the chest, abdomen or pelvis.
2. Aneurysmal dilatation of the ascending aorta up to 4.6 cm. No
evidence of acute aortic injury.
3. Mild prominence of the central intrahepatic and extrahepatic
biliary ducts with normal tapering of the common bile duct to 
the
ampulla and no definite evidence of obstruction. Correlate with
liver function tests.
4. Small hiatal hernia.
5. Fibroid uterus.
6. Enlarged and heterogeneous thyroid gland without focal 
nodule.
Correlate with thyroid function tests.

CT C Spine w/o contrast: No acute fracture or traumatic
malalignment.

Chest CXR: Mild enlargement of the right lobe of the thyroid and
and there is a possible punctate calcification in the right 
lobe.
Correlate with thyroid function tests, outpatient ultrasound. 
- Trauma surgery was consulted; no acute surgical interventions. 

- Transfer VS were: HR 103 BP 146/73 RR 18 95% RA 

On arrival to the floor, patient denies pain. She is alert but 
confused. She describes that she had an accident in ___ 
where she side swiped a car in the setting of drinking a shot. 
She then describes the car accident from two days ago and said 
she was driving home from her spot in ___ and then remembered 
waking up the ED and does not remember anything in between. She 
denies pain currently. She denies chest pain, shortness of 
breath, nausea or vomiting. 

The brother is at the bed side a provides collateral. She states 
that patient has been increasingly confused and withdrawn the 
past week or so. She has lost her appetite and has not been 
eating much the past week. 

Per brother, patient has a history of hyperthyroidism diagnosed 
best he can tell about one year ago by primary care doctor in 
the setting of work up for palpations and a 50 lb weight loss. 
She was prescribed 15 mg methamazole daily and has gained ___ 
lbs. 

In terms of her history of alcohol use, she has always been a 
daily drinker per brother ___ shots gin daily. He noticed about 
___ years ago after she retired, she started drinking more and 
lived alone. Her brother visited her house and noted that is was 
in quite a bit of disarray so she moved in with her brother. Her 
family does not provide her with EtOH and goes to a bar near her 
house. No history of hospitalizations for withdraw.

REVIEW OF SYSTEMS:
Denies fevers/chills, nausea/vomiting, shortness of breath, 
chest
pain/dizziness, palpitations, abdominal pain,
constipation/diarrhea, urinary symptoms, numbness/weakness. 

 
Past Medical History:
Hyperthyroidism 
Hypertension 
Hearing Loss  

 
Social History:
___
Family History:
Non-contributory  
 
Physical Exam:
===============
ON ADMISSION 
================
Vitals:  99.4 PO 145/87 L Lying ___ RA 
General: Alert to self, not alert to place or date, poor
comprehension, tangential thinking 
HEENT: Sclerae anicteric, MM dry, oropharynx clear. Bruising on
left check and small laceration on left lift  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: Tachycardiac, S1/S2, no m/r/g 
GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CN2-12 intact, no focal deficits 
Skin:  Right knee bruising, small laceration on left leg with
left leg hematoma. 

===============
ON DISCHARGE 
===============
Vitals:  99.4 PO 119/73 R Lying HR 96 RR 18 97% Ra 
General: Alert to self, not alert to place or date, poor
comprehension, tangential thinking 
HEENT: Sclerae anicteric, MM dry, oropharynx clear. Bruising on
left check and small laceration on left lift  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB, no wheezes, rales, or rhonchi  
CV: Tachycardiac, S1/S2, no m/r/g 
GI: soft, NT/ND, BS+, no rebound tenderness or guarding, no
organomegaly  
MSK: warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema  
Neuro: CN2-12 intact, no focal deficits 
Skin:  Right knee bruising, small laceration on left leg with
left leg hematoma. 

 
Pertinent Results:
===============
LABS 
===============
___ 06:05PM BLOOD WBC-8.6 RBC-4.10 Hgb-12.4 Hct-38.3 MCV-93 
MCH-30.2 MCHC-32.4 RDW-12.4 RDWSD-42.4 Plt ___
___ 03:30PM BLOOD Neuts-75.2* Lymphs-15.0* Monos-8.8 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-7.36* AbsLymp-1.47 
AbsMono-0.86* AbsEos-0.04 AbsBaso-0.03
___ 03:30PM BLOOD Glucose-104* UreaN-20 Creat-0.6 Na-141 
K-4.1 Cl-102 HCO3-24 AnGap-15
___ 06:05PM BLOOD ALT-45* AST-62* AlkPhos-120* TotBili-0.3
___ 06:05PM BLOOD Albumin-4.1

=============
PERTIENT LABS
==============
___ 03:30PM BLOOD T4-14.6* T3-154 Free T4-2.8*
___ 03:30PM BLOOD TSH-<0.01*
___ 06:05PM BLOOD ASA-NEG ___ Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 06:12PM BLOOD pO2-51* pCO2-39 pH-7.38 calTCO2-24 Base 
XS--1

===============
DISCHARGE LABS 
===============
___ 07:00AM BLOOD WBC-8.4 RBC-3.78* Hgb-11.4 Hct-34.6 
MCV-92 MCH-30.2 MCHC-32.9 RDW-12.5 RDWSD-41.9 Plt ___
___ 07:00AM BLOOD Glucose-113* UreaN-13 Creat-0.5 Na-141 
K-4.4 Cl-101 HCO3-25 AnGap-15
___ 07:00AM BLOOD ALT-41* AST-38 AlkPhos-101 TotBili-0.7

===================
IMAGING 
===================

Right Knee 
No fracture or dislocation is seen. There are no significant 
degenerative 
changes. There is a moderate-sized joint effusion.  There is 
normal osseous mineralization.  Soft tissue swelling is seen 
medially as well as anterior to the ___. 

RUQ US 
1. Cholelithiasis, with no evidence of acute cholecystitis. 
2. Mild dilation of the common bile duct up to 9 mm which tapers 
normally 
distally, and no choledocholithiasis seen in the visualized 
portion of the 
duct. No intrahepatic biliary duct dilatation. 
  
RECOMMENDATION(S):  MRCP can be obtained for further assessment 
of the distal common bile duct, if there is clinical concern for 
biliary obstruction 

Left Hand 
No fracture or dislocation is seen.  There are degenerative 
changes of the 
first CMC.  No bone erosion or periostitis is identified. No 
suspicious lytic or sclerotic lesion is identified. No soft 
tissue calcification or 
radio-opaque foreign bodies are detected 

Left Knee 
No acute fracture or dislocation.  Large pre and infrapatellar 
soft tissue 
swelling/hematoma.  Small focal rounded lucency projects over 
the soft tissue anterior to the ___ represent fat, but 
underlying subcutaneous gas is not excluded. 

CT C-Spine 
There is mild straightening of cervical lordosis.  No evidence 
of traumatic malalignment.  No acute fractures are identified.  
There are multilevel degenerative changes with disc space 
narrowing and small posterior disc bulges, resulting in up to 
mild central canal narrowing.  Multilevel facet arthropathy and 
uncovertebral hypertrophy results in up to mild right neural 
foraminal narrowing, worst at C3-C4.  There is osseous fusion of 
the right C2 through C4 facets.  There is no prevertebral edema. 

  
Very partially imaged upper lung apices show no focal 
consolidation.  The right lobe of the thyroid gland appears 
mildly enlarged and there may be a 
punctate calcification within the right lobe.. 

CT Chest/Abdomen/Pelvis 
1. No CT findings of acute trauma in the chest, abdomen or 
pelvis. 
2. Aneurysmal dilatation of the ascending aorta up to 4.6 cm.  
No evidence of acute aortic injury. 
3. Mild prominence of the central intrahepatic and extrahepatic 
biliary ducts with normal tapering of the common bile duct to 
the ampulla and no definite evidence of obstruction.  Correlate 
with liver function tests. 
4. Small hiatal hernia. 
5. Fibroid uterus. 
6. Enlarged and heterogeneous thyroid gland without focal 
nodule.  Correlate with thyroid function tests. 

CXR 
Smooth prominence of the ascending and descending aorta may 
represent a 
dilated and tortuous aorta or aortic aneurysm.  No pleural 
effusion seen. 
Findings could be further evaluated with CT, which is pending. 

 
Brief Hospital Course:
___ yo F pmh hyperthyroidism and hypertension presents high speed 
MVC with altered mental status, intoxication. 

# Loss of Consciousness
# S/P MVC  
Patient in ___ in the setting of intoxication however noted to 
have a question of a syncopal episode prior to contact. Most 
likely related to EtOH intoxication but given her history of 
hyperthyroidism would be concerned for arrhythmia potentially  
syncope. EKG in the ED with sinus tachycardia but was otherwise 
unremarkable. Patient was maintained on telemetry with on run of 
SVT 15 beats overnight. Patient was not orthostatic. Tertiary 
trauma survey was completed by the acute care surgery team. CT 
chest/abdomen/pelvis w/ contrast was performed without evidence 
of acute trauma in the chest, abdomen or pelvis. Patient 
sustained a left knee hematoma. 

# Hyperthyroidism: 
# Enlarged heterogeneous thyroid. 
It was noted in the CT abd/pelvis obtained for the trauma survey 
that there is an enlarged and heterogeneous thyroid gland 
without focal nodule. Patient has a known history of 
hyperthyroidism with last thyroid function studies on ___ 
noting Free T4 1.9 TSH <0.01. Outpatient thyroid uptake scan 
from ___ on ___ demonstrated homogenous radiotracer 
uptake by the thyroid and 24 hr thyroid uptake 54% which is 
greater than normal. While inpatient her at ___, TSH <0.01 and 
Free T4 2.8 with total T4 14.6 and T3 154 on ___. She was 
seen by endocrinology here at ___ who recommended up titration 
of methimazole to 20 mg daily. Ms. ___ can follow up with our 
endocrine team ___. ___ ___ in 4 weeks. She should 
have repeat thyroid function tests in ___ weeks. Symptoms of 
thyrotoxicosis were discussed with the patient's brother. 

# Dilated CBD: 
Elevated Alk phos 211; CT with suggestion of common bile duct 
and intrahepatic bile duct dilation. RUQ US shows enlarged 
common bile duct for age with a transition point with upstream 
dilation and downstream taper. No cholelithasis and no retained 
stone. Most concerning for possible malignancy given symptoms of 
abdominal bloating and weight loss although this is complicated 
by the diagnosis of hyperthyroidism. Less concerning for 
infection given normal white count, afebrile. Patient should 
have repeat LFTS in 2 wks and follow up outpatient with an MRCP 
for further evaluation of the dilated common bile duct. 

# Thoracic Aortic Aneurysm 
Incidentally found during ACS trauma surgery. 4.6 cm and 
currently on beta blockade. Patient should see a vascular 
surgeon for outpatient follow up. 

# EtOH Abuse 
Blood EtOH level in the ED 0.105. No symptoms of withdraw while 
inpatient. She was started on folate and thiamine. She was seen 
by our social worker her at ___ who provided emotional support 
as well as psycho education about reactions to trauma. Patient 
to be discharged with brother who was counseled as to the 
symptoms of EtOH withdraw. The patient should not drive a car. 

========================  
Transitional Issues:  
========================  
**Discharge Labs:  
--  Free T4 2.8 TSH <0.01 Total T4 14.6 T4 154
--  Hgb 11.4 BUN 13 Cr 0.5
--  AST 38 ALT 41 Alk phos 101 Tbili 0.7
--  INR 1.2  
**Follow Up Issues:  
--  Hyperthyroidism: increased methimazole dose to 20 mg 
--  Aneurysmal dilatation of the ascending aorta up to 4.6 cm
--  Paranasal sinus disease, chronic in nature on CT head w/o 
contrast 
--  Large pre and infrapatellar soft tissue swelling/hematoma 
over left knee 
--  Moderate-sized right knee joint effusion
--  Dilated CBD to 9 mm Needs follow up with MRCP; RUQ US with 
Cholelithasis 
** Follow Up Appointments:  
--  PCP ___ 
--  ___ Dr. ___ ___
--  Patient should see a vascular surgeon for follow up of 
thoracic aneurysm
# CODE STATUS: Full Code 
# HCP  ___ Brother ___

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 25 mg PO BID 
2. Methimazole 15 mg PO DAILY 
3. Atorvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
3.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth daily Disp #*30 Tablet Refills:*0 
4.  Methimazole 20 mg PO DAILY 
RX *methimazole 10 mg 2 tablet(s) by mouth daily Disp #*60 
Tablet Refills:*0 
5.  Atorvastatin 10 mg PO QPM  
6.  Metoprolol Tartrate 25 mg PO BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# S/P Motor Vehicle Accident 
# Left leg hematoma 
# Thoracic aortic aneurysm
# Common bile duct dilation 
# EtOH abuse 
# Malnutrition  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a pleasure taking care of you at ___. Please see below 
for information on your time in the hospital.  

WHY WAS I IN THE HOSPITAL? You had a car accident 
  
WHAT HAPPENED IN THE HOSPITAL?  
- You were seen by our trauma team who performed imaging studies 
to ensure that you did not sustain damage to your internal 
organs. Your lungs, heart, spleen, liver and intestines are 
normal. 
- You have a hematoma (large bruise) over your left knee. Should 
this become red, warm, ooze or bleed or if it becomes to painful 
to walk report to the emergency department 
- You were found to have a thoracic aneurysm, a dilation of the 
largest blood vessel near your heart. This should be monitored 
by CT scans. Your doctor ___ order another scan in 6mo-year. It 
is important to take your metoprolol twice a day to ensure your 
blood pressure and heart rate are well controlled. 
- You have a small dilation of the common bile duct in the 
liver, this drains the bile from your liver to your colon. Your 
doctor ___ order a repeat scan should you have bloating, 
abdominal pain, nausea vomiting or yellowing of the skin. 
- Your thyroid function studies show you still have thyroid 
disease. You were seen by endocrinology here at ___ who adjusted 
your medications. 

WHAT SHOULD I DO WHEN I GO HOME?  
- You should not drive a car 
- Ensure you take your metoprolol 25 mg twice a day, once in the 
morning and once in the evening 
- Stay well hydrated 
- CHANGES IN MEDICATIONS 
-- New dose 20 mg methimazole daily 
- Please follow up with your primary care doctor, an appointment 
is scheduled below. 

Should you feel palpations, shortness of breath, dizziness, 
abdominal pain, nausea, vomiting, tremors please report 
immediately back to the emergency department. 

We wish you the best in your health.  
-Your Care Team at ___  
 
Followup Instructions:
___